### PR TITLE
[Merged by Bors] - feat(GroupTheory/FreeGroup): reduction theorem for powers

### PR DESCRIPTION
**Pull request by b-reinke**
This PR adds the theorem `reduce_flatten_replicate`, it describes the reduction of a power of a reduced word in terms of its cyclic reduction.

It is a part of a series of PR on the theory of cyclically reduced words.

Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

 - [x] depends on: #25966 
 - [x] depends on: #27672 
 - [x] depends on: #27673
 
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 1]
```diff
@@ -73,6 +74,26 @@ theorem flatten_replicate (n : ℕ) (h : IsCyclicallyReduced L) :
...
+    : IsReduced (L₁ ++ (List.replicate n L₂).flatten ++ L₃) := by
+  match n with
+  | 0 => contradiction
+  | n + 1 =>
+    if h : L₂ = [] then simp_all else
+    have h' : (replicate (n + 1) L₂).flatten ≠ [] := by simp [h]
+    refine IsReduced.append_overlap ?_ ?_ (hn := h')
+    · rw [replicate_succ, flatten_cons, ←append_assoc]
+      refine IsReduced.append_overlap (h₂.infix ⟨[], L₃, by simp⟩) ?_ h
+      rw [←flatten_cons, ←replicate_succ]
```
Comment (adomani) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion
      rw [← flatten_cons, ← replicate_succ]
```
and similarly elsewhere.

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 2]
```diff
@@ -73,6 +74,26 @@ theorem flatten_replicate (n : ℕ) (h : IsCyclicallyReduced L) :
...
+      exact (h₁.flatten_replicate _).isReduced
+    · rw [replicate_succ', flatten_concat]
+      refine IsReduced.append_overlap ?_ (h₂.infix ⟨L₁, [], by simp⟩) h
+      rw [←flatten_concat, ←replicate_succ']
+      exact (h₁.flatten_replicate _).isReduced
+
+
```
Comment (adomani) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion

```

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 3]
```diff
@@ -73,6 +74,25 @@ theorem flatten_replicate (n : ℕ) (h : IsCyclicallyReduced L) :
 
 end IsCyclicallyReduced
 
+@[to_additive]
+theorem IsReduced.append_flatten_replicate_append (n : ℕ) (hn : n ≠ 0) (L₁ L₂ L₃ : List (α × Bool))
+    (h₁ : IsCyclicallyReduced L₂) (h₂ : IsReduced (L₁ ++ L₂ ++ L₃))
+    : IsReduced (L₁ ++ (List.replicate n L₂).flatten ++ L₃) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion
    (h₁ : IsCyclicallyReduced L₂) (h₂ : IsReduced (L₁ ++ L₂ ++ L₃)) :
    IsReduced (L₁ ++ (List.replicate n L₂).flatten ++ L₃) := by
```

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 4]
```diff
@@ -73,6 +74,25 @@ theorem flatten_replicate (n : ℕ) (h : IsCyclicallyReduced L) :
 
 end IsCyclicallyReduced
 
+@[to_additive]
+theorem IsReduced.append_flatten_replicate_append (n : ℕ) (hn : n ≠ 0) (L₁ L₂ L₃ : List (α × Bool))
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: I might suggest putting `n` and `hn` at the end of the variables? Also, have you given any thought to whether any of these variables should be implicit?

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 5]
```diff
@@ -148,5 +168,36 @@ theorem conj_conjugator_reduceCyclically (w : List (α × Bool)) :
       simp [invRev, h.1.symm, h.2.symm]
     case isFalse => simp
 
+@[to_additive]
+theorem reduce_flatten_replicate_succ (n : ℕ) (L : List (α × Bool)) (h : IsReduced L) :
+    reduce (List.replicate (n + 1) L).flatten = conjugator L ++
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean:175]: Can you fix the docstring of `conjugator` to refer to `conj_conjugator_reduceCyclically`?

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 6]
```diff
@@ -148,5 +168,36 @@ theorem conj_conjugator_reduceCyclically (w : List (α × Bool)) :
...
+  case succ n ih =>
+    rw [replicate_succ, flatten_cons, ← reduce_append_reduce_reduce, ih, h.reduce_eq]
+    nth_rewrite 1 [← conj_conjugator_reduceCyclically L]
+    have {L₁ L₂ L₃ L₄ L₅ : List (α × Bool)} : reduce (L₁ ++ L₂ ++ invRev L₃ ++ (L₃ ++ L₄ ++ L₅)) =
+        reduce (L₁ ++ (L₂ ++ L₄) ++ L₅) := by
+      nth_rewrite 1 [append_assoc]
+      nth_rewrite 2 [← append_assoc, ← append_assoc]
+      nth_rewrite 1 [← reduce_append_reduce_reduce]
+      nth_rewrite 3 [← reduce_append_reduce_reduce]
+      nth_rewrite 4 [← reduce_append_reduce_reduce]
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: Is there a way to do this nicer? For instance, a calc block?

Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]: I used the `group` tactic

**Review by tb65536 — APPROVED** [review]
maintainer merge

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 7]
```diff
@@ -115,8 +135,10 @@ theorem isCyclicallyReduced (w : List (α × Bool)) (h : IsReduced w) :
       rw [isCyclicallyReduced_cons_append_iff]
       exact ⟨h, by simpa using h'⟩
 
-/-- Partner function to `reduceCyclically`. See `reduceCyclically.conjugation`. -/
-@[to_additive /-- Partner function to `reduceCyclically`. See `reduceCyclically.conjugation`. -/]
+/-- Partner function to `reduceCyclically`.
+See `reduceCyclically.conj_conjugator_reduceCyclically`. -/
+@[to_additive /-- Partner function to `reduceCyclically`.
+See `reduceCyclically.conj_conjugator.reduceCyclically`. -/]
```
Comment (adomani) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion
See `reduceCyclically.conj_conjugator_reduceCyclically`. -/]
```

File: Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean [hunk 8]
```diff
@@ -148,5 +170,34 @@ theorem conj_conjugator_reduceCyclically (w : List (α × Bool)) :
...
+    rw [replicate_succ, flatten_cons, ← reduce_append_reduce_reduce, ih, h.reduce_eq]
+    nth_rewrite 1 [← conj_conjugator_reduceCyclically L]
+    have {L₁ L₂ L₃ L₄ L₅ : List (α × Bool)} : reduce (L₁ ++ L₂ ++ invRev L₃ ++ (L₃ ++ L₄ ++ L₅)) =
+        reduce (L₁ ++ (L₂ ++ L₄) ++ L₅) := by
+      apply reduce.sound
+      repeat rw [← mul_mk]
+      rw [← inv_mk]
+      group
+    rw [this, ← flatten_cons, ← replicate_succ, ← isReduced_iff_reduce_eq]
+    apply IsReduced.append_flatten_replicate_append (hn := by simp) ..
```
Comment (adomani) [inline Mathlib/GroupTheory/FreeGroup/CyclicallyReduced.lean]:
```suggestion
    apply IsReduced.append_flatten_replicate_append (hn := by simp)
```
maybe?  Alternatively, use `refine ... ?_ ?_`?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
